US07985755B2
5-[4-(Toluene-3-sulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and m-toluenesulfonyl chloride (78.2 mg; 0.41 mmol) to obtain 32.3 mg. (41% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.37 (s, 1H), 7.58 (m, 4H), 7.38 (t, J=8.0 Hz, 1H), 6.96 (d, J=8.0 Hz, 1H), 6.84 (d, J=7.6 Hz, 1H), 5.92 (br s, 2H), 3.74 (br d, J=11.6 Hz, 2H), 3.44 (m, 1H), 3.1 (br d, J=12 Hz, 2H), 2.85 (m, 2H), 2.53 (m, 4H). ESIMS+399.6 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | m-toluenesulfonyl chloride | 0.41 mmol, 78.2 mg | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 5-[4-(Toluene-3-sulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 41% yield | C1(=CC(=CC=C1)S(=O)(=O)N1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N)C | C19H22N6O2S
